US08431575B2
To a solution of 3-butyl-4-(4-cyclohexyloxy-3-nitro-phenyl)-6-(1-methyl-piperidin-4-yloxy)-pyridazine (5 mmol, 2.34 g) in acetic acid (10 mL) was added iron powder (˜325 mesh, 50 mmol, 2.80 g). And the mixture was stirred at 100° C. for 0.5 hour. It was then diluted with water/EtOAc and neutralized slowly with NaHCO3 powder. The solvent was removed in vacuo and the residue was purified by silica gel chromatography (DCM to DCM+10% 2N NH3 in MeOH) to give a colorless sticky solid, which was dissolved in DCM (10 mL), 2N HCl in ether (10 mL) was added, kept at room temperature for 10 min, condensed, triturated with hexanes to provide 5-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-phenylamine trihydrochloride (2.06 g).

reactant | 3-butyl-4-(4-cyclohexyloxy-3-nitro-phenyl)-6-(1-methyl-piperidin-4-yloxy)-pyridazine | 5 mmol, 2.34 g | C(CCC)C=1N=NC(=CC1C1=CC(=C(C=C1)OC1CCCCC1)[N+](=O)[O-])OC1CCN(CC1)C | C26H36N4O4
reactant | HCl | 2N | Cl | ClH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water EtOAc | O.CCOC(=O)C
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 10 mL | CCOCC | C4H10O
catalyst | iron | 50 mmol, 2.80 g | [Fe] | Fe
product | 5-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-phenylamine trihydrochloride | 2.06 g | Cl.Cl.Cl.C(CCC)C=1N=NC(=CC1C=1C=CC(=C(C1)N)OC1CCCCC1)OC1CCN(CC1)C | InChI=1S/C26H38N4O2.3ClH/c1-3-4-10-24-22(18-26(29-28-24)32-21-13-15-30(2)16-14-21)19-11-12-25(23(27)17-19)31-20-8-6-5-7-9-20;;;/h11-12,17-18,20-21H,3-10,13-16,27H2,1-2H3;3*1H
